US06355653B1
7.70 g (0.025 mol) Pyridine-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide were heated at 200° C. for 20 minutes. The molten mass was then cooled, dissolved in 30 ml hot ethanol and stirred for two hous at room temperature. The precipitated crystals were filtered off and dried to yield 6.22 g (84%) 3-benzenesulfonylmethyl-5-pyridin-2-yl-1H-[1,2,4]triazole. MS m/e (%): 300 (M+, 100).

reactant | Pyridine-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 0.025 mol, 7.70 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C1=NC=CC=C1 | C14H14N4O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-benzenesulfonylmethyl-5-pyridin-2-yl-1H-[1,2,4]triazole | 6.22 g, 84% | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=NC=CC=C1 | C14H12N4O2S
